US09238644B2
(a) 2-(2-Iodophenyl)butanoic acid (I1)
Lithium diisopropylamide solution (2.0 M in THF/heptane/ethylbenzene, 3.82 mL, 7.63 mmol) was added to dry THF (10 mL) under an atmosphere of nitrogen and cooled to 0° C. A solution of 2-(2-iodophenyl)acetic acid (500 mg, 1.91 mmol) in dry THF (15 mL) was then added dropwise. This solution was stirred for 40 minutes at 0° C. before the addition of iodoethane (0.92 mL, 11 mmol). The solution was returned to room temperature and stirred for 4 hours. The resulting mixture was quenched with the addition of H2O (10 mL) and then 2 M HCl (20 mL). The aqueous layer was extracted with EtOAc (3×30 mL), the organic layers were combined and washed with brine, dried over MgSO4 and the solvent was evaporated under reduced pressure. The residue was adsorbed onto silica gel and purified using column chromatography (Biotage Isolera, SiO2 cartridge, 0-40% EtOAc in petroleum benzine 40-60° C.) to give the title compound I1 as a pale yellow oil (479 mg, 87%); 1H NMR (400 MHz, d6-DMSO) δ 12.49 (s, 1H), 7.88 (dd, J=7.9, 1.2 Hz, 1H), 7.39 (td, J=7.6, 1.2 Hz, 1H), 7.32 (dd, J=7.8, 1.7 Hz, 1H), 7.01 (J m, 1H), 3.77 (t, J=7.5 Hz, 1H), 1.98-1.86 (m, 1H), 1.73-1.60 (m, 1H), 0.85 (t, J=7.3 Hz, 3H).

reactant | Lithium diisopropylamide | 7.63 mmol, 2.0 M, 3.82 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-(2-iodophenyl)acetic acid | 1.91 mmol, 500 mg | IC1=C(C=CC=C1)CC(=O)O | C8H7IO2
reactant | iodoethane | 11 mmol, 0.92 mL | ICC | C2H5I
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2-Iodophenyl)butanoic acid | IC1=C(C=CC=C1)C(C(=O)O)CC | C10H11IO2
